US04324899
Hydroxylamine hydrochloride (24.0 g, 0.30 m+15% molar excess), crude 2-amino-5-formylthiazole (38.4 g, 0.30 m), and sodium formate (37.5 g, 0.55 m) are combined in 450 ml of 97% (commercial) formic acid. The mixture is heated on a steam bath until TLC (10% CH3OH/CHCl3) shows only a single product spot (about 7-8 hr.). The reaction mixture is filtered hot and the filtrate condensed under reduced pressure. The residue is triturated in ice water, the solid collected by filtration, washed with water, and air-dried to yield 27.7 g (0.18 m, 60.5%) of 5-cyano-2-formamidothiazole as a reddish-brown powder.

reactant | Hydroxylamine hydrochloride | 24.0 g | Cl.NO
reactant | 2-amino-5-formylthiazole | 38.4 g | NC=1SC(=CN1)C=O | C4H4N2OS
reactant | sodium formate | 37.5 g | C(=O)[O-].[Na+]
reactant | formic acid | C(=O)O | CH2O2
solvent | CH3OH CHCl3 | CO.C(Cl)(Cl)Cl
product | 5-cyano-2-formamidothiazole | 27.7 g, 60.5% | C(#N)C1=CN=C(S1)NC=O | C5H3N3OS
